US09315521B2
The crude 2-chloro-4-(4-ethylpiperazin-1-yl)benzaldehyde was dissolved in anhydrous ethanol (20 mL). The solution was cooled to 0° C. under nitrogen, and NaBH4 (1.52 g, 40 mmol) was added in one portion. The mixture was stirred at room temperature for 2 hours and quenched by addition of water (5 mL). Na2SO4 (20 g) was then added. After 10 minutes, the mixture was filtered. The filtrate was evaporated to provide [2-chloro-4-(4-ethylpiperazin-1-yl)phenyl]methanol.

reactant | 2-chloro-4-(4-ethylpiperazin-1-yl)benzaldehyde | ClC1=C(C=O)C=CC(=C1)N1CCN(CC1)CC | C13H17ClN2O
reactant | NaBH4 | 40 mmol, 1.52 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | [2-chloro-4-(4-ethylpiperazin-1-yl)phenyl]methanol | ClC1=C(C=CC(=C1)N1CCN(CC1)CC)CO | C13H19ClN2O
